```spice
* Diode-Connected NMOS with RC Load

.include "1genai/data/45nm.sp"

* Parameters
.param resistor_value=1k
.param capacitor_value=1p
.param vdd_value=1.2

* Circuit Description
M0 (VOUT1 VDD VOUT1 VSS) nmos w=500n l=45n 
RC (VOUT1 VSS) resistor {resistor_value}
CC (VOUT1 VSS) capacitor {capacitor_value}

* DC Source
VDD VDD 0 dc={vdd_value}
VSS VSS 0 dc=0

* AC Source for AC Simulation
VAC VDD VDD_AC ac 1

* Simulation Commands
.op 

.ac dec 10 1 10G

.control
run
* Print DC operating point information
print dc V(VOUT1) ID(M0)

* AC analysis
ac dec 10 1 10Meg
plot db(v(VOUT1))
print ac v(VOUT1)

* Save data
wrdata Diode_NMOS_DC.txt V(VOUT1) ID(M0)
wrdata Diode_NMOS_AC.txt v(VOUT1)

quit
.endc

.end
```